US04364921
(a) 5-(N-Methoxyacetyl-N-methylamino)-2,4,6-triiodoisophthalic Acid Dichloride
30 ml. (400 mmol) of methoxyacetic acid is dissolved in 100 ml. of DMA, cooled to 0° C., and 29 ml. (400 mmol) of SOCl2 is added dropwise. The mixture is stirred for 30 minutes at this temperature, a solution of 61 g. (100 mmol) of 5-methylamino-2,4,6-triiodoisophthalic acid dichloride in 200 ml. of DMA is added dropwise thereto, and the reaction solution is stirred for 20 hours at room temperature. Then, the solution is stirred into 4 l. of water, the precipitate is vacuum-filtered, dissolved in 2 l. of ethyl acetate, successively extracted with respectively 250 ml. of saturated bicarbonate solution, saturated sodium chloride solution, and water; the ethyl acetate phase is dried over Na2SO4 and evaporated. Yield: 61.4 g. (90 mmol)=90% of theory.

reactant | methoxyacetic acid | 400 mmol | COCC(=O)O | C3H6O3
reactant | SOCl2 | 400 mmol | O=S(Cl)Cl | Cl2OS
reactant | 5-methylamino-2,4,6-triiodoisophthalic acid dichloride | 100 mmol | CNC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C9H4Cl2I3NO2
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 5-(N-Methoxyacetyl-N-methylamino)-2,4,6-triiodoisophthalic Acid Dichloride | COCC(=O)N(C)C=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C12H8Cl2I3NO4
